US05688798
A solution of 0.56 g (0.00053 mol) of crude 5-[6-(4-chlorophenyl)-3,4-dihydro-1H-isoquinolin-2ylmethyl]-2-methyl-pyrimidin-4-ylamine in 100 ml of ethanol was filtered and treated with 1.1 ml (0.00385 mol) of 3.5N ethanolic hydrochloric acid. The suspension obtained was suction filtered. 0.098 g (14%) of 5-[6-(4-chlorophenyl)-3,4-dihydro-1H-isochinolin-2-ylmethyl]-2-methyl-pyrimidin-4-ylamine dihydrochloride was obtained as white crystals; m.p. 223°-235° (dec).

reactant | 5-[6-(4-chlorophenyl)-3,4-dihydro-1H-isoquinolin-2ylmethyl]-2-methyl-pyrimidin-4-ylamine | 0.00053 mol, 0.56 g | ClC1=CC=C(C=C1)C=1C=C2CCN(CC2=CC1)CC=1C(=NC(=NC1)C)N | C21H21ClN4
reactant | hydrochloric acid | 0.00385 mol, 3.5N, 1.1 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-[6-(4-chlorophenyl)-3,4-dihydro-1H-isochinolin-2-ylmethyl]-2-methyl-pyrimidin-4-ylamine dihydrochloride | 0.098 g, 14% | Cl.Cl.ClC1=CC=C(C=C1)C=1C=C2CCN(CC2=CC1)CC=1C(=NC(=NC1)C)N | InChI=1S/C21H21ClN4.2ClH/c1-14-24-11-19(21(23)25-14)13-26-9-8-17-10-16(2-3-18(17)12-26)15-4-6-20(22)7-5-15;;/h2-7,10-11H,8-9,12-13H2,1H3,(H2,23,24,25);2*1H
